US04477671
To a suspension of 2-(1-hydroxy-2-tert-butylaminoethyl)-5-hydroxy-6-methylpyridine dihydrochloride (7.70 g., 0.026 mole) in 300 ml. of ethyl acetate and 7.7 ml. of triethylamine, 10.8 ml. of acetic anhydride was added and the solution was heated at the reflux temperature for 30 hours. An additional 5 ml. of acetic anhydride was added to the reaction mixture and heating was continued for 24 hours, then allowed to cool to room temperature. The reaction mixture was poured into aqueous sodium bicarbonate solution (100 g. NaHCO3 in 700 ml. H2O) and the resulting mixture was stirred for 1 hour. The ethyl acetate layer was separated, washed with aqueous sodium bicarbonate, then water and dried over magnesium sulfate. Evaporation of the dried ethyl acetate solution in vacuo gave 3-acetoxy-2-methyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine, the product 6.0 g. (66%); m.p. 124.5°-127.5° C.

reactant | 2-(1-hydroxy-2-tert-butylaminoethyl)-5-hydroxy-6-methylpyridine dihydrochloride | 0.026 mole, 7.70 g | Cl.Cl.OC(CNC(C)(C)C)C1=NC(=C(C=C1)O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 700 ml, 100 g | C([O-])(O)=O.[Na+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-acetoxy-2-methyl-6-[1-acetoxy-2-(N-tert-butylacetamido)ethyl]pyridine | C(C)(=O)OC=1C(=NC(=CC1)C(CN(C(C)=O)C(C)(C)C)OC(C)=O)C | C18H26N2O5
